US07786165B2
3-[4-({[4′-(2-ethoxyethoxy)-2′,6′-dimethylbiphenyl-3-yl]methyl}amino)phenyl]propanoic acid hydrochloride
To a solution of 3-[4-({[4′-(2-ethoxyethoxy)-2′,6′-dimethylbiphenyl-3-yl]methyl}amino)phenyl]propanoic acid (0.736 g, 1.64 mmol) in ethyl acetate (3.75 mL) was added 4 N hydrogen chloride/ethyl acetate solution (1.25 mL), and the resulting solid was pulverized and washed with ethyl acetate-diethyl ether to give the title compound as colorless crystals (0.762 g, yield 96%).

reactant | 3-[4-({[4′-(2-ethoxyethoxy)-2′,6′-dimethylbiphenyl-3-yl]methyl}amino)phenyl]propanoic acid | 1.64 mmol, 0.736 g | C(C)OCCOC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)CNC1=CC=C(C=C1)CCC(=O)O)C | C28H33NO4
reactant | hydrogen chloride ethyl acetate | 4 N, 1.25 mL | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 3.75 mL | C(C)(=O)OCC | C4H8O2
product | 3-[4-({[4′-(2-ethoxyethoxy)-2′,6′-dimethylbiphenyl-3-yl]methyl}amino)phenyl]propanoic acid hydrochloride | 0.762 g, yield 96% | Cl.C(C)OCCOC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)CNC1=CC=C(C=C1)CCC(=O)O)C | InChI=1S/C28H33NO4.ClH/c1-4-32-14-15-33-26-16-20(2)28(21(3)17-26)24-7-5-6-23(18-24)19-29-25-11-8-22(9-12-25)10-13-27(30)31;/h5-9,11-12,16-18,29H,4,10,13-15,19H2,1-3H3,(H,30,31);1H
